US07371503B2
30 g 6-n-butoxy-2-naphthalene thiol was obtained by the method of non-patent document 5 from 72 g of 2-bromo-6-n-butoxy naphthalene prepared according to the method described in J. Am. Chem. Soc., Vol. 118, P. 6841-6852 (1996) and 6-n-butoxy-2-naphthyl magnesium bromide prepared from 7.5 g of magnesium. Next, 30 g of 6-n-butoxy-2-naphthalene thiol was dissolved in 150 ml of acetone and 14.0 g of 4-chloro-1-butanol was added to the solution. After the addition of 26.1 g of triethylamine dropwise over 15 minutes, the mixture was reacted for 15 hours at room temperature while stirring. Next, 150 ml of ethyl acetate and 150 ml of water were added to the reaction mixture. After removing the water layer using a separating funnel, the organic layer was washed three times with 75 ml of a 10 wt % sodium carbonate aqueous solution, then repeatedly washed with 5 wt % oxalic acid aqueous solution until the water layer becomes pH 2. Then, the organic layer was washed with purified water until the water layer becomes pH 7 and dried using magnesium sulfate. After drying, magnesium sulfate was removed by filtration and the solvent was evaporated using a rotary evaporator at 40° C. under reduced pressure by a stream aspirator to obtain 29.4 g of 4-hydroxybutyl-(6-n-butoxynaphthalen-2-yl)sulfide, of which the purity determined by high performance liquid chromatography (HPLC) was 95 wt % or more.

reactant | 6-n-butoxy-2-naphthyl magnesium bromide | C(CCC)OC=1C=C2C=CC(=CC2=CC1)[Mg]Br
reactant | magnesium | 7.5 g | [Mg] | Mg
reactant | 6-n-butoxy-2-naphthalene thiol | 30 g | C(CCC)OC=1C=C2C=CC(=CC2=CC1)S | C14H16OS
reactant | 4-chloro-1-butanol | 14.0 g | ClCCCCO | C4H9ClO
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 26.1 g | C(C)N(CC)CC | C6H15N
product | 4-hydroxybutyl-(6-n-butoxynaphthalen-2-yl)sulfide | 29.4 g | OCCCCSC1=CC2=CC=C(C=C2C=C1)OCCCC | C18H24O2S
